US04766152
Over about 1 hour, a solution of 22 g of hydroxylamine hydrochloride and 26 g of anhydrous sodium acetate in 110 ml of water is added dropwise at room temperature to a solution of 64 g of 4-phenoxyphenoxyacetone in 260 ml of ethanol. After the slightly exothermic reaction has subsided, the mixture is stirred for a further 3.5 hours at reflux temperature. Subsequently, the ethanol is distilled off from the reaction mixture by rotary evaporation, the aqueous residue is extracted three times with a 2:1 mixture of ether and hexane, the combined organic phases are washed with water and with 10% sodium bicarbonate solution and then dried over sodium sulfate. The solvent is then distilled off. Recrystallisation from a mixture of diethyl ether and pentane affords 4-phenoxyphenoxyacetone oxime with a melting point of 59°-61° C.

reactant | hydroxylamine hydrochloride | 22 g | Cl.NO
reactant | sodium acetate | 26 g | C(C)(=O)[O-].[Na+]
reactant | 4-phenoxyphenoxyacetone | 64 g | O(C1=CC=CC=C1)C1=CC=C(OCC(C)=O)C=C1 | C15H14O3
solvent | water | 110 ml | O | H2O
solvent | ethanol | 260 ml | C(C)O | C2H6O
product | 4-phenoxyphenoxyacetone oxime | O(C1=CC=CC=C1)C1=CC=C(OCC(C)=NO)C=C1 | C15H15NO3
